US09382243B2
2-(2-fluoro-4-(oxetan-3-yloxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
3-(4-bromo-3-fluorophenoxy)oxetane (1.3 g, 5.26 mmol), bis(pinacolato)diboron (2.67 g, 10.52 mmol) and potassium acetate (1.549 g, 15.79 mmol) were dissolved in DMSO (21.05 ml) and the mixture was sparged with N2 for 15 min. Then [1,1′-Bis(Diphenylphosphino)Ferrocene]Dichloropalladium (II) (0.770 g, 1.052 mmol) was added and the reaction heated to 80° C. overnight, then diluted with 1:1 water:brine and EtOAc. The aqueous phase was extracted with EtOAc (×2) and the combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting residue was purified by column chromatography on a Biotage™ 25 g column by eluting with 10% to 70% EtOAc:Hexane to provide the desired product. 1H NMR δ (ppm) 7.6 (t, 1H), 6.56 (d, 1H), 6.46 (d, 1H), 5.30-5.25 (m, 1H), 4.99 (t, 2H), 4.65 (t, 2H), 1.33 (s, 12H).

reactant | 3-(4-bromo-3-fluorophenoxy)oxetane | 5.26 mmol, 1.3 g | BrC1=C(C=C(OC2COC2)C=C1)F | C9H8BrFO2
reactant | bis(pinacolato)diboron | 10.52 mmol, 2.67 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 15.79 mmol, 1.549 g | C(C)(=O)[O-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 21.05 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
catalyst | [1,1′-Bis(Diphenylphosphino)Ferrocene]Dichloropalladium | 1.052 mmol, 0.770 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(2-fluoro-4-(oxetan-3-yloxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | FC1=C(C=CC(=C1)OC1COC1)B1OC(C(O1)(C)C)(C)C | C15H20BFO4
